US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-aminomethylphenyl)urea:
To a solution of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-bromomethylphenyl)urea (400 mg, 0.65 mmol) in dimethylformamide (10 ml) is added potassium phthalimide (144 mg, 0.78 mmol) at room temperature, and the mixture is stirred at room temperature for 3 hours. To the mixture is added water, and the mixture is extracted with ethyl acetate. The organic layer is washed twice with water, and dried over anhydrous magnesium sulfate. The solvent is concentrated under reduced pressure, and the residue is purified by silica gel column chromatography to give the title compound (393 mg, 0.57 mmol) as colorless amorphous.

reactant | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-bromomethylphenyl)urea | 0.65 mmol, 400 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)CBr)C(C)C)=O | C33H39BrN4O3
reactant | potassium phthalimide | 0.78 mmol, 144 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-aminomethylphenyl)urea | 0.57 mmol, 393 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)CN)C(C)C)=O | C33H41N5O3
